US08871187B2
461 mg (0.7 mmol) of sodium borohydride are carefully added to a solution of 4.1 mg (12.2 mmol) of ethyl 2-tert-butoxycarbonylamino-3-(4-methoxyphenyl)-3-oxo-propanoate in 40 ml of ethanol cooled to −78° C. After stirring for 15 minutes, the reaction medium is hydrolysed with a saturated aqueous solution of ammonium chloride. The ethanol is evaporated off and the aqueous phase is extracted with dichloromethane. The organic phase is dried over magnesium sulphate, filtered and concentrated. The residue is purified by silica gel chromatography, elution being carried out with a 70/30 heptane/ethyl acetate mixture. 3 g of ethyl 2-tert-butoxycarbonylamino-3-hydroxy-3-(4-methoxyphenyl)propanoate are obtained in the form of a yellow oil with a yield of 72%.

reactant | sodium borohydride | 0.7 mmol, 461 mg | [BH4-].[Na+]
reactant | ethyl 2-tert-butoxycarbonylamino-3-(4-methoxyphenyl)-3-oxo-propanoate | 12.2 mmol, 4.1 mg | C(C)(C)(C)OC(=O)NC(C(=O)OCC)C(=O)C1=CC=C(C=C1)OC | C17H23NO6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | ethyl 2-tert-butoxycarbonylamino-3-hydroxy-3-(4-methoxyphenyl)propanoate | 3 g, yield of 72% | C(C)(C)(C)OC(=O)NC(C(=O)OCC)C(C1=CC=C(C=C1)OC)O | C17H25NO6
